US03956310
11.1 Parts of 7,14-diazadispiro[5.1.5.2]pentadecan-15-one, 6.88 parts of cyclohexyl isocyanate and a trace of 1,4-diazabicyclo[2.2.2]octane in 150 parts of dry benzene were heated at reflux for 30 hours, cooled and filtered to remove N,N'-dicyclohexyl urea. The benzene filtrate was evaporated to dryness and the residue crystallised from petroleum ether of boiling range 80°-100°C to give 2.60 parts of 14-cyclohexylcarbamoyl-7,14-diazadispiro[5.1.5.2]pentadecan-15-one having a melting point of 106° to 109°C and the following analysis by weight:

reactant | 7,14-diazadispiro[5.1.5.2]pentadecan-15-one | C1CCCCC12NC1(CCCCC1)NC2=O | C13H22N2O
reactant | cyclohexyl isocyanate | C1(CCCCC1)N=C=O | C7H11NO
reactant | 1,4-diazabicyclo[2.2.2]octane | N12CCN(CC1)CC2 | C6H12N2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 14-cyclohexylcarbamoyl-7,14-diazadispiro[5.1.5.2]pentadecan-15-one | C1(CCCCC1)NC(=O)N1C2(NC3(CCCCC3)C1=O)CCCCC2 | C20H33N3O2
